US08202858B2
4-(3-tert-Butoxycarbonyl-propoxy)-3-methyl-benzoic Acid Methyl Ester
Potassium carbonate (580 mg, 4.20 mmol) and potassium iodide (72 mg, 0.43 mmol) were added to a solution of 4-hydroxy-3-methyl-benzoic acid methyl ester from Example E29 (293 mg, 1.76 mmol) and 4-bromo-butyric acid tert-butyl ester from Example E42.1 (397 mg, 1.78 mmol) in acetone (50 ml). The mixture was heated at reflux for 18 h then the solid was filtered off and the filtrate concentrated in vacuo. The residue was dissolved in EtOAc, washed with water then brine, dried and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 20% EtOAc:80% pet. ether) to yield the title compound (414 mg, 76%).

reactant | Potassium carbonate | 4.20 mmol, 580 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.43 mmol, 72 mg | [I-].[K+]
reactant | 4-hydroxy-3-methyl-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)O)C)=O | C9H10O3
reactant | 4-bromo-butyric acid tert-butyl ester | C(C)(C)(C)OC(CCCBr)=O | C8H15BrO2
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 4-(3-tert-Butoxycarbonyl-propoxy)-3-methyl-benzoic Acid Methyl Ester | 414 mg, 76% | COC(C1=CC(=C(C=C1)OCCCC(=O)OC(C)(C)C)C)=O | C17H24O5
